US07495007B2
Preparation of intermediate 5-chloro-2-isopropoxy-benzaldehyde
5-Chloro-2-hydroxy-benzaldehyde (3 g, 19.16 mmol),2-Iodo-propane (4.88 g, 28.74 mmol) and K2CO3 (4 g, 28.74 mmol) was mixed in anhydrous DMF. The reaction tube was placed into the cavity of a focused monomode microwave reactor and the contents of the flask were irradiated for 30 min at 100° C. Then the solution was filtered and the filtration was concentrated to obtain the crude product (3 g). The crude product was used into next step reaction without further purification.

reactant | 5-Chloro-2-hydroxy-benzaldehyde | 19.16 mmol, 3 g | ClC=1C=CC(=C(C=O)C1)O | C7H5ClO2
reactant | 2-Iodo-propane | 28.74 mmol, 4.88 g | IC(C)C | C3H7I
reactant | K2CO3 | 28.74 mmol, 4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-chloro-2-isopropoxy-benzaldehyde | 3 g | ClC=1C=CC(=C(C=O)C1)OC(C)C | C10H11ClO2
